US04666915
Ethyl 1,6-dihydro-2-(2-methoxyanilino)-6-oxo-5-pyrimidinecarboxylate (10 g) and sodium hydroxide (4 g) are added to water (100 ml), and the mixture is refluxed with stirring for 1 hour. After cooling, the reaction mixture is acidified with acetic acid, and the precipitate is collected by filtration and recrystallized from DMF to give 1,6-dihydro-2-(2-methoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid (7 g). M.p. 251°-253° C.

reactant | Ethyl 1,6-dihydro-2-(2-methoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 10 g | COC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C14H15N3O4
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,6-dihydro-2-(2-methoxyanilino)-6-oxo-5-pyrimidinecarboxylic acid | 7 g | COC1=C(NC=2NC(C(=CN2)C(=O)O)=O)C=CC=C1 | C12H11N3O4
